US07300936B2
2-(4-Chlorobenzenesulfonylamino)-4-fluoro-4-methyl-pentanoic acid amide:
A solution of 2-(4-chlorobenzenesulfonylamino)-4-fluoro-4-methyl-pentanoic acid ethyl ester (457 mg, 1.30 mmol) in MeOH (20 mL) was treated with 10 N NaOH (780 tL, 7.8 mmol) at rt for 18 h. The crude reaction mixture was concentrated in vacuo. The residue was treated with water (50 mL) and 1 N HCl (20 mL). The aqueous solution was extracted with EtOAc (3×100 mL). The combined organic layers were washed with brine (50 mL), dried over MgSO4, filtered and concentrated in vacuo to afford a white solid containing 2-(4-chlorobenzenesulfonylamino)-4-fluoro-4-methyl-pentanoic acid. A mixture of the crude solid, 1-hydroxybenzotriazole (263 mg, 1.95 mmol), diisopropylethylamine (670 mg, 5.2 mmol), ammonium chloride (140 mg, 2.6 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (373 mg, 1.95 mmol), and DMF (20 mL) was stirred at rt for 24 h. The crude mixture was poured into water (500 mL). The aqueous solution was extracted with EtOAc/hexane (90: 10, 3×150 mL). The combined organic layers were washed with brine (50 mL), dried over MgSO4, filtered and concentrated in vacuo. The crude concentrate was purified using silica gel column chromatography (95:5, chlorofor/MeOH) to afford 0.426 g (100% yield) of the title compound: LCMS (M+Na)+345.3; 1H NMR (400 MHz, DMSO-d6) δ8.10 (d, 1H, J=9.2), 7.77 (d, 2H, J=8.5), 7.62 (d, 2H, J=8.9), 7.34 (s, 1H), 6.92 (s, 1H). 3.85 (m, 1H), 1.89 (m, 1H), 1.74 (m, 1H), 1.31 (d, 3H, J=21.7), 1.29 (d, 3H, J=21.9).

reactant | 2-(4-chlorobenzenesulfonylamino)-4-fluoro-4-methyl-pentanoic acid ethyl ester | 1.30 mmol, 457 mg | C(C)OC(C(CC(C)(C)F)NS(=O)(=O)C1=CC=C(C=C1)Cl)=O | C14H19ClFNO4S
reactant | NaOH | 7.8 mmol, 10 N | [OH-].[Na+]
reactant | 2-(4-chlorobenzenesulfonylamino)-4-fluoro-4-methyl-pentanoic acid | ClC1=CC=C(C=C1)S(=O)(=O)NC(C(=O)O)CC(C)(C)F | C12H15ClFNO4S
reactant | 1-hydroxybenzotriazole | 1.95 mmol, 263 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | diisopropylethylamine | 5.2 mmol, 670 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | ammonium chloride | 2.6 mmol, 140 mg | [Cl-].[NH4+]
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 1.95 mmol, 373 mg | Cl.CN(CCCN=C=NCC)C
solvent | MeOH | 20 mL | CO | CH4O
solvent | water | 500 mL | O | H2O
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 2-(4-Chlorobenzenesulfonylamino)-4-fluoro-4-methyl-pentanoic acid amide | 0.426 g, 100% yield | ClC1=CC=C(C=C1)S(=O)(=O)NC(C(=O)N)CC(C)(C)F | C12H16ClFN2O3S
